US05629339
6-Allyl-5,7-diallyloxy-2-(3-allyloxy-4-methoxyphenyl)-4H-1-benzopyran-4-one
12 g of diosmetin in 100 ml of dimethylformamide and 15 ml of HMPA are added very slowly to a suspension of 4.8 g of sodium hydride in 30 ml of dimethylformamide. The mixture is then stirred at 40° C. until the evolution of gas has ceased. 17.25 g of allyl bromide are then added dropwise and the whole is heated at 60° C. for 16 hours, after which the solvents are removed by distillation under reduced pressure. The residue is taken up in dichloromethane and then chromatographed on silica using a 98% dichloromethane/2% methanol mixture as eluant. In that manner a fraction of 7.6 g of compound very fluorescent under 366 nm is recovered. An analytical sample of the title compound is prepared by recrystallisation from isopropanol, m.p.: 107° C.

reactant | diosmetin | 12 g | COC=1C=CC(=CC1O)C2=CC(=O)C=3C(=CC(=CC3O2)O)O | C16H12O6
reactant | sodium hydride | 4.8 g | [H-].[Na+]
reactant | allyl bromide | 17.25 g | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | HMPA | 15 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-Allyl-5,7-diallyloxy-2-(3-allyloxy-4-methoxyphenyl)-4H-1-benzopyran-4-one | C(C=C)C=1C(=CC2=C(C(C=C(O2)C2=CC(=C(C=C2)OC)OCC=C)=O)C1OCC=C)OCC=C | C28H28O6
